US06716851B2
4-(3-Methylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (100 mg, 0.486 mmol) and m-toluidine (52 μl, 0.486 mmol) similar to Example 13 and isolated as a pale yellow oil (132 mg, 99%). 1H NMR (CDCl3): 8.76-8.74 (m, 1H), 8.43-8.40 (m, 1H), 7.78-7.72 (m, 1H), 7.55 (s, 1H), 7.31-7.08 (m, 4H), 6.92 (d, J=7.2 Hz, 1H), 6.55 (s, 1H), 2.41 (s, 3H), 2.30 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.486 mmol, 100 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | m-toluidine | 0.486 mmol, 52 μl | NC1=CC(=CC=C1)C | C7H9N
product | 4-(3-Methylanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | CC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C17H16N4
